US08350052B2
Preparation of 1-benzyl-3-hydroxymethyl-1H-indazole
A solution of 2M i-PrMgCl in THF (69 mL, 138 mmol, 4.0 eq.) was added to a suitably thoroughly dried flask maintained under a nitrogen atmosphere. The solution was cooled to approximately −10° C. A solution of 1-benzyl-3-bromo-1H-indazole (10 g, 34.8 mmol, 1.0 eq.) in anhydrous THF (40 mL) was added over approximately one hour keeping the temperature constant. The reaction mixture was kept stirred for at least 6 hours, and a yellow suspension was obtained. Gaseous formaldehyde (generated by heating a suspension of 16.7 g of paraformaldehyde in 60 mL of xylene at approximately 115° C.) was passed over this for approximately two hours at a temperature of below 0° C. When the reaction was complete, dilute H3PO4 was added and the excess of re-polymerised paraformaldehyde was removed by filtration. Me-THF (60 mL) was added to the mixture and the phases were separated. The organic phase was washed with a dilute solution of NaHCO3. After concentration of the organic phase an oily residue containing the product was obtained. Subsequent purification of the crude product by silica gel chromatography yielded 2.8 g of white solid (yield: 34%).

reactant | i-PrMgCl | 2M | C(C)(C)[Mg]Cl
reactant | 1-benzyl-3-bromo-1H-indazole | 34.8 mmol, 10 g, 1.0 eq. | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)Br | C14H11BrN2
reactant | formaldehyde | C=O | CH2O
reactant | paraformaldehyde | 16.7 g | C=O | CH2O
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | xylene | 60 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | THF | 138 mmol, 69 mL, 4.0 eq. | C1CCOC1 | C4H8O
product | 1-benzyl-3-hydroxymethyl-1H-indazole | 2.8 g, yield: 34% | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)CO | C15H14N2O
